US06914074B2
2-Methoxy-6-(4-methoxyphenyl)-1-phenylnaphthalene
To a mixture of 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene (0.80 g, 2.33 mmol) and tetrakis(triphenylphosphine)palladium (0.13 g, 0.12 mmol) in THF (10 mL) was added phenylmagnesiumbromide (2.2 mL of 3 N in ether). The reaction mixture was stirred at reflux overnight, cooled to room temperature, poured into 1 N HCl (100 mL), and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with sodium bicarbonate solution, dried over magnesium sulfate, filtered, evaportation of the solvent, and purification by silica column chromatography (10% ethyl acetate-hexanes) yielded 0.42 g (53%) of a gray solid: mp 157-160° C.; 1H NMR (CDCl3): δ 3.85 (3H, s), 3.87 (3H, s), 7.01 (2H, d, J=8.64 Hz), 7.38-7.46 (4H, m), 7.49-7.57 (4H, m), 7.64 (2H, d, J=8.64 Hz), 7.92 (1H, d, J=9.05 Hz), 7.97 (1H, s); MS (ESI) m/z 341 (M+H)+.

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene | 2.33 mmol, 0.80 g | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)Br | C18H15BrO2
reactant | phenylmagnesiumbromide | 3 N, 2.2 mL | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-6-(4-methoxyphenyl)-1-phenylnaphthalene | 0.42 g, 53% | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C24H20O2
